US06379930B1
Step 1. Synthesis of 1,3-dihexadecyloxy-2-aminopropane
A solution of 2-amino-1,3-propanediol (Serinol: Aldrich Chem. Co., Milwaukee, Wis.; Catalog No. 35,789-8) in tetrahydrofuran (THF) is added dropwise with vigorous stirring to a slurry of sodium hydride in THF over a period of 1-2 hrs. The reaction mixture is stirred for an additional 30 minutes to 1 hr at room temperature. Hexadecyl tosylate in THF is added dropwise to the mixture with vigorous stirring over a period of 1-1.5 hrs. The reaction mixture is stirred at room temperature for 1 hr and worked up by addition of isopropanol to destroy excess sodium hydride. The reaction mixture is extracted with chloroform (3×100 mL) and the combined chloroform layers are washed with water (2×50 mL), saturated NaCl (1×50 mL) and dried (MgSO4). The dried chloroform layer is evaporated under vacuum to afford the product as an off-white solid.

reactant | 2-amino-1,3-propanediol | NC(CO)CO | C3H9NO2
reactant | sodium hydride | [H-].[Na+]
reactant | Hexadecyl tosylate | S(=O)(=O)(OCCCCCCCCCCCCCCCC)C1=CC=C(C)C=C1 | C23H40O3S
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,3-dihexadecyloxy-2-aminopropane | C(CCCCCCCCCCCCCCC)OCC(COCCCCCCCCCCCCCCCC)N | C35H73NO2
